US07163937B2
Preparation D4, Step 5: A suspension of 6-(trifluoromethoxy)quinazolin-4-ol (515 mg, 2.23 mmol) in phosphorous oxychloride (1.9 mL) was treated with triethylamine (3 mL, 21.1 mmol), and the mixture was heated at reflux for 2 h. The resulting solution was cooled to room temperature, and stripped 3× from methylene chloride to remove residual phosphorous oxychloride. The residue was dissolved in 100 mL methylene chloride, 100 mL saturated sodium bicarbonate was carefully added, causing vigorous gas evolution, and the mixture was stirred for 10 min, until gas evolution had ceased. The layers were separated, and the organic phase was washed with saturated sodium bicarbonate (2×30 mL), followed by brine, dried over sodium sulfate, and concentrated in-vacuo. The residue was purified over silica gel, eluting with 40% EtOAc/heptane, to yield 377 mg of 4-chloro-6-(trifluoromethoxy)quinazoline as a colorless oil. 1H NMR (400 MHz, CDCl3) δ ppm 9.10 (s, 1H), 8.16 (d, J=9.23 Hz, 1H), 8.10 (s, 1H), 7.83 (dd, J=9.23, 2.20 Hz, 1H). MS (ES+)=249 (M+H)+.

reactant | 6-(trifluoromethoxy)quinazolin-4-ol | 2.23 mmol, 515 mg | FC(OC=1C=C2C(=NC=NC2=CC1)O)(F)F | C9H5F3N2O2
reactant | triethylamine | 21.1 mmol, 3 mL | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | phosphorous oxychloride | 1.9 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-6-(trifluoromethoxy)quinazoline | 377 mg | ClC1=NC=NC2=CC=C(C=C12)OC(F)(F)F | C9H4ClF3N2O
